*-- define pcb subckt model
.subckt pcb_model in out
rs_pcb in middle 0.18m
ls_pcb middle out 40p

*-- decap on board
*rp_pcb middle middle1 1m
*lp_pcb middle1 middle2 6p
*cp_pcb middle2 0 0.5u
*lp_pcb middle1 middle2 1p
*cp_pcb middle2 0 0.1u
.ends pcb_model
