*-- pkg subckt model
.subckt pkg_model in out
rs in middle1 0.1m
ls middle1 out 10e-12

*-- pkg decap
*rp middle1 middle2 0.001
*lp middle2 middle3 2.3e-12
*cp middle3 0 1.6e-08
.ends pkg_model
